US06727264B1
N-(3-{1-[3-(4-METHOXYPHENYL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Procedure K (KI) and Scheme E (K2cO3) using 3-chloro-1-(4-methoxyphenyl)-1-propanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 409.2 (M+H)+.

reactant | 3-chloro-1-(4-methoxyphenyl)-1-propanone | ClCCC(=O)C1=CC=C(C=C1)OC | C10H11ClO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(4-METHOXYPHENYL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C25H32N2O3
